US04217357
The procedure described in Example XLVII was repeated except that 2-(p-anisyl)-3-(imidazol-1-ylmethyl)indole was the starting material employed in place of 3-(imidazol-1-ylmethyl)-5-methoxyindole, using the same molar proportions as before. In this particular case, the solid product obtained was chromatographed on silica gel and then finally eluted with chloroform/methanol (20:1 by volume). Evaporation of the product-containing eluate then gave a solid material which was crystallized from ethanol to afford pure 2-(p-hydroxyphenyl)-3-(imidazol-1-ylmethyl)indole, m.p. 245°-247° C.

reactant | 2-(p-anisyl)-3-(imidazol-1-ylmethyl)indole | C(C1=CC=C(C=C1)OC)C=1NC2=CC=CC=C2C1CN1C=NC=C1 | C20H19N3O
reactant | 3-(imidazol-1-ylmethyl)-5-methoxyindole | N1(C=NC=C1)CC1=CNC2=CC=C(C=C12)OC | C13H13N3O
product | 2-(p-hydroxyphenyl)-3-(imidazol-1-ylmethyl)indole | OC1=CC=C(C=C1)C=1NC2=CC=CC=C2C1CN1C=NC=C1 | C18H15N3O
